US08293744B2
Step 7: Preparation of 5-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-2,5-dihydro-3H-pyrazol[4,3-c]thieno[2,3-e]pyridazin-3-one:
Ethyl 4-thioxo-1-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-1,4-dihydrothieno[3,2-c]pyridazine-3-carboxylate (23 mg, 0.058 mmol) and hydrazine (1.0 mL, 31 mmol, 550 equiv) were combined in absolute ethanol (7 mL) and placed into an oil bath preheated to 85° C. for 2 hours. The mixture was cooled to ambient temperature and concentrated in vacuo, providing the titled compound.

reactant | Ethyl 4-thioxo-1-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-1,4-dihydrothieno[3,2-c]pyridazine-3-carboxylate | 0.058 mmol, 23 mg | S=C1C2=C(N(N=C1C(=O)OCC)CC1=CC=C(C=C1)N1N=CC=C1)C=CS2 | C19H16N4O2S2
reactant | hydrazine | 31 mmol, 1.0 mL, 550 equiv | NN | H4N2
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | 5-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-2,5-dihydro-3H-pyrazol[4,3-c]thieno[2,3-e]pyridazin-3-one | N1(N=CC=C1)C1=CC=C(C=C1)CN1N=C2C(C3=C1C=CS3)=NNC2=O | C17H12N6OS
